US06362177B1
To a mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (0.050 mmol), 4-methyl-3-nitrobenzaldehyde (0.25 mmol), methanol (1.2 mL), and acetic acid (0.050 mL) was added NaBH3CN (0.50 mmol) in methanol (1.0 mL). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. The resulting material was dissolved into ethyl acetate/methanol=2/1 (2 mL), loaded onto Varian™ Si column, eluted off using ethyl acetate/methanol=2/1 (6 mL), and concentrated. The residue was dissolved in methanol (1 mL) and 4 N HCl in dioxane (0.50 mL) was added. The solution was stirred at room temperature overnight and concentrated. The residue was dissolved in methanol, loaded onto Varian™ SCX column, washed with CH3OH (5 mL×2), and eluted off using 2 N NH3 in CH3OH (5 mL). Concentration afforded 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-methyl-3-nitrobenzyl)piperidine.

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 4-methyl-3-nitrobenzaldehyde | 0.25 mmol | CC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO3
reactant | acetic acid | 0.050 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.50 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 1.0 mL | CO | CH4O
solvent | methanol | 1.2 mL | CO | CH4O
product | 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-methyl-3-nitrobenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)C)[N+](=O)[O-])C=C(C(=C1)F)F | C23H27F2N5O4
